US07049438B2
4-(2-chloro-5-methoxyanilino)-5,7-di-(3-morpholinopropoxy)quinazoline
Di-tert-butyl azodicarboxylate (0.035 g) was added dropwise to a stirred mixture of 4-(2-chloro-5-methoxyanilino)-7-hydroxy-5-(3-morpholinopropoxy)quinazoline (0.045 g), 4-(3-hydroxypropyl)morpholine (0.016 g), triphenylphosphine (0.04 g) and methylene chloride (1 ml). The reaction mixture was stirred at ambient temperature for 10 minutes. The mixture was evaporated and the residue was purified by column chromatography on silica using a 9:10:1 mixture of methylene chloride, ethyl acetate and a saturated methanolic ammonia solution as eluent. The material so obtained was triturated under diethyl ether. The resultant solid was isolated, washed with diethyl ether and dried under vacuum to give the title compound (0.018 g); NMR Spectrum: (DMSOd6 and CF3COOD) 2.2–2.4 (m, 4H), 3.15 (m, 4H), 3.35 (m, 4H), 3.5 (m, 4H), 3.7 (m, 4H), 3.8 (s, 3H), 4.02 (t, 4H), 4.35 (t, 2H), 4.6 (t, 2H), 6.95 (s, 1H), 7.03 (s, 1H), 7.05 (m, 1H), 7.5 (s, 1H), 7.6 (d, 1H), 8.88 (s, 1H); Mass Spectrum: M+H+ 572 and 574.

reactant | Di-tert-butyl azodicarboxylate | 0.035 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | 4-(2-chloro-5-methoxyanilino)-7-hydroxy-5-(3-morpholinopropoxy)quinazoline | 0.045 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OCCCN2CCOCC2)O)C=C(C=C1)OC | C22H25ClN4O4
reactant | 4-(3-hydroxypropyl)morpholine | 0.016 g | OCCCN1CCOCC1 | C7H15NO2
reactant | triphenylphosphine | 0.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-chloro-5-methoxyanilino)-5,7-di-(3-morpholinopropoxy)quinazoline | 0.018 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OCCCN2CCOCC2)OCCCN2CCOCC2)C=C(C=C1)OC | C29H38ClN5O5
